US07763608B2
To a solution of methyl 4-chloro-1-methyl-1H-pyrrole-2-carboxylate (130 mg, 0.75 mmol) in MeOH (4 mL), aq. 1N NaOH (3 mL) was added. After being stirred at room temperature overnight, the mixture was acidified with 1N HCl to pH 1-2. The product was extracted with EtOAc. The EtOAc phase was separated, dried over Na2SO4, concentrated in vacuo to give 4-chloro-1-methyl-1H-pyrrole-2-carboxylic acid as a solid (111 mg).

reactant | methyl 4-chloro-1-methyl-1H-pyrrole-2-carboxylate | 0.75 mmol, 130 mg | ClC=1C=C(N(C1)C)C(=O)OC | C7H8ClNO2
reactant | NaOH | 1N, 3 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 4 mL | CO | CH4O
product | 4-chloro-1-methyl-1H-pyrrole-2-carboxylic acid | 111 mg | ClC=1C=C(N(C1)C)C(=O)O | C6H6ClNO2
